US09260408B2
[D] (rac)-N-[1-(5-Bromo-pyridin-3-yl)-ethyl]-propionamide
At 0° C., propionyl chloride (138 mg, 1.5 mmol) was added dropwise to a solution of (rac)-1-(5-bromo-pyridin-3-yl)-ethylamine (201 mg, 1 mmol) and Et3N (153 mg, 1.5 mmol) in DCM (10 mL). The reaction mixture was stirred at room temperature for 1 hour before it was concentrated to dryness. The residue was redissolved in EtOAc and washed with water and brine, dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The residue was purified by flash column chromatography to give the title compound (200 mg, 78%).

reactant | propionyl chloride | 1.5 mmol, 138 mg | C(CC)(=O)Cl | C3H5ClO
reactant | (rac)-1-(5-bromo-pyridin-3-yl)-ethylamine | 1 mmol, 201 mg | BrC=1C=C(C=NC1)C(C)N | C7H9BrN2
reactant | Et3N | 1.5 mmol, 153 mg | CCN(CC)CC | C6H15N
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (rac)-N-[1-(5-Bromo-pyridin-3-yl)-ethyl]-propionamide | 200 mg, 78% | BrC=1C=C(C=NC1)C(C)NC(CC)=O | C10H13BrN2O
